US05635510
1.6 Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenylpiperidine-4-carboxylic acid amide (No.027F42)
2-[1-Benzoyl-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]ethyl methanesulfonate (191 mg, 0.43 mmol) was treated with the 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (144 mg, 0.599 mmol) and NaHCO3 (90 mg, 1.07 mmol, 2.5 eq.) in THF/H20 (5 mL/1 mL) at reflux for 21 hours. The solution was concentrated in vacuo and the aqueous phase was extracted with dichloromethane. The organic phase was dried over magnesium sulfate, filtered, and concentrated in vacuo. The residue was chromatographed on silica gel (30 g) with 6% methanol in dichloromethane to give 146 mg (44%).

reactant | 2-[1-Benzoyl-3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]ethyl methanesulfonate | 0.43 mmol, 191 mg | CS(=O)(=O)OCCC1(CN(CC1)C(C1=CC=CC=C1)=O)C1=CC(=C(C=C1)Cl)Cl | C20H21Cl2NO4S
reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.599 mmol, 144 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | NaHCO3 | 1.07 mmol, 90 mg, 2.5 eq. | C(=O)(O)[O-].[Na+]
solvent | THF | C1CCOC1 | C4H8O
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenylpiperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC=CC=C1)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C31H33Cl2N3O2
